Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
lisinopril / seasonal allergy
 
Attending: ___
 
___ Complaint:
Stage IIa rectal cancer treated by robotic LAR with loop 
ileostomy
 
Major Surgical or Invasive Procedure:
Reversal of ileostomy

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history significant 
for rectal cancer status post robotic low anterior resection and 
loop ileostomy in ___. She was diagnosed with a 
deep vein thrombus in ___ and shortly after a large 
pulmonary embolus in ___. She underwent a pouch study 
in ___ which did not demonstrate a leak and was sequentially 
scheduled for a takedown. 
 
Past Medical History:
Past Surgical History:
Robotic LAR with loop ileostomy ___
Stage IIIB T3N2 M0 low grade adenocarcinoma of rectum CA s/p LAR
with loop ileostomy on ___, s/p Xeloda ___
-- Tx history: 
She completed neoadjuvant xeloda/RT in ___
She underwent resection on ___ -> had T3N0 on final path 
Received C1 CapeOx ___ c/b nausea/diarrhea/ARF 
Restarted C2 xeloda 3 tabs po q12 hr; Oxali held due to side
effects

Past medical history: 
DVT/PE
Hypertension
Asthma 
Positive PPD, s/p rifampin 600 mg orally daily x 4 months
 
Social History:
___
Family History:
Sister with cancer, died age ___

 
Physical Exam:
Discharge Physical Exam:

Gen: NAD, resting comfortably in bed
Card: hemodynamically stable
Pulm: CTAB, no respiratory distress
Abd: Soft, non-tender, non-distended, no rebound or guarding, 
dry
dressing in place.
Ext: No edema, warm well-perfused
Neuro: AxOx3
Skin: diffuse erythematous, warm rash over the whole body, but
sparing the face (expanded from yesterday as rash was over the
epigastric area expanding up to the bottom of the pt's bilateral
breasts only) Rash is nonblanching, nonraised, nontender.
 
Pertinent Results:
___ 06:25AM BLOOD WBC-9.7 RBC-2.88* Hgb-8.8* Hct-27.1* 
MCV-94 MCH-30.6 MCHC-32.5 RDW-13.1 RDWSD-45.1 Plt ___
___ 06:25AM BLOOD Glucose-100 UreaN-17 Creat-1.7* Na-146 
K-4.2 Cl-111* HCO3-23 AnGap-12
___ 06:25AM BLOOD Calcium-9.1 Phos-4.1 Mg-1.8
___ 06:25AM BLOOD CRP-76.5*
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ with 
rectal cancer s/p LAR with loop ileostomy and chemo now s/p loop 
ileostomy take-down. She tolerated the procedure well without 
complications (Please see operative note for further details). 
After a brief and uneventful stay in the PACU, the patient was 
transferred to the floor for further post-operative management.
Neuro: Pain was well controlled on Tylenol and tramadol for 
breakthrough pain.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored. Her home BP 
meds (losartan-hctz) were being held due to recent acute kidney 
injury and were pending review by her PCP (as per nephrology 
recommendations) at the time of admission. She was 
intermittently hypertensive treated with PRN hydralazine, was 
close to discharge started on 5mg amlodipine once daily as a 
temporizing measure.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. She had good 
pulmonary toileting, as early ambulation and incentive 
spirometry were encouraged throughout hospitalization.
GI: The patient was initially kept NPO after the procedure. The 
patient was advanced to and tolerated a regular diet but 
developed large volume bilious emesis due to ileus which 
resolved after decompression with an NG tube. Patient's intake 
and output were closely monitored.
GU: The patient voided spontaneously. Urine output was monitored 
as indicated and creatinine at the time of discharged was 
improved at 1.2 from her baseline of around 2 as an outpatient.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there was none.
Heme: The patient received subcutaneous heparin and ___ dyne 
boots during this stay. She was encouraged to get up and 
ambulate as early as possible. The patient is being discharged 
on therapeutic Lovenox. 
On ___, the patient was discharged to home/ At discharge, she 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.
Post-Surgical Complications During Inpatient Admission:
[ ] Post-Operative Ileus resolving w/o NGT
[x] Post-Operative Ileus requiring management with NGT
[ ] UTI
[ ] Wound Infection
[ ] Anastomotic Leak
[ ] Staple Line Bleed
[ ] Congestive Heart failure
[ ] ARF
[ ] Acute Urinary retention, failure to void after Foley D/C'd
[ ] Acute Urinary Retention requiring discharge with Foley 
Catheter
[ ] DVT
[ ] Pneumonia
[ ] Abscess
[ ] None
Social Issues Causing a Delay in Discharge:
[ ] Delay in organization of ___ services
[ ] Difficulty finding appropriate rehab hospital disposition.
[ ] Lack of insurance coverage for ___ services
[ ] Lack of insurance coverage for prescribed medications.
[ ] Family not agreeable to discharge plan.
[ ] Patient knowledge deficit related to ileostomy delaying 
dispo
[x] No social factors contributing in delay of discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Enoxaparin Sodium 120 mg SC Q24H 
2. LOPERamide 2 mg PO QID:PRN diarrhea 
3. Multivitamins W/minerals 1 TAB PO DAILY 
4. Psyllium Wafer 1 WAF PO DAILY 
5. losartan-hydrochlorothiazide 100-12.5 mg oral DAILY 
6. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
2.  Nitrofurantoin (Macrodantin) 100 mg PO BID 
RX *nitrofurantoin macrocrystal [Macrodantin] 100 mg 1 
capsule(s) by mouth twice a day Disp #*12 Capsule Refills:*0 
3.  TraMADol 50-100 mg PO Q6H:PRN Pain - Moderate 
RX *tramadol 50 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*6 Tablet Refills:*0 
4.  Enoxaparin Sodium 120 mg SC Q24H 
RX *enoxaparin 120 mg/0.8 mL 120 mg once a day Disp #*30 Syringe 
Refills:*0 
5.  Multivitamins W/minerals 1 TAB PO DAILY  
6.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Ileostomy takedown status post low anterior resection of the 
rectum

___- Ileostomy takedown status post low anterior resection 
of the rectum

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted to the hospital after an ileostomy takedown. 
You have recovered from this procedure and you are now ready to 
return home. 
The muscles of the sphincters have not been used in quite some 
time and you may experience urgency or small amounts of 
incontinence. This should improve. If you do not see improvement 
and you are having symptoms of dehydration (headache, 
lightheadedness, dizziness, dark urine, or dry mouth) please 
call the office or go to the emergency room.   
You have a small wound where the old ileostomy once was. This 
should be covered with a dry gauze dressing.  Please monitor the 
incision for signs and symptoms of infection including: 
increasing redness and pain at the incision site, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. If you develop these symptoms please call the office or 
go to the emergency room.
You may shower, let the warm water run over the wound line and 
pat the area dry with a towel, do not rub. Please apply a new 
gauze dressing after showering.
You may feel weak or "washed out" for up to 6 weeks after 
surgery. Do not lift greater than a gallon of milk for 3 weeks. 
At your post op appointment, your surgical team will clear you 
for heavier exercise.  In the meantime, you may climb stairs, 
and go outside and walk.  Please avoid traveling long distances 
until you speak with your surgical team at your post-op visit.  
Pain is expected after surgery, this will gradually improve over 
the first week or so you are home.  You should continue to take 
2 Extra Strength Tylenol (___) for pain every 8 hours around 
the clock. Please do not take more than 3000mg of Tylenol in 24 
hours or any other medications that contain Tylenol such as cold 
medication. Do not drink alcohol while taking Tylenol.  You may 
also take Advil (Ibuprofen) 600mg every 8 hours for 7 days. 
Please take Advil with food. If these medications are not 
controlling your pain to a point where you can ambulate and 
perform minor tasks, you should contact the clinic. Please do 
not take sedating medications, drink alcohol, or drive while 
taking the narcotic pain medication.  
Thank you for allowing us to participate in your care, we wish 
you all the best! 
 

 
Followup Instructions:
___